US04370340
A mixture of bis(2-nitro-4-phenoxyphenyl) disulfide (13.2 g), sodium monosulfide.nonahydrate (36.7 g) in water was refluxed with stirring for 3 hours and then cooled to ambient temperature. To the resultant mixture was added 10% sodium hydroxide aqueous solution (50 ml). Phosgene was passed through the reaction mixture with stirring under ice-cooling until it was neutralized. The resultant mixture was acidified with hydrochloric acid, extracted with ethyl acetate, washed with water, dried over magnesium sulfate and concentrated under reduced pressure to give a residue, which was chromatographed on silica gel using benzene and a mixture of benzene and ethyl acetate (10:1) as eluants. The fractions containing object compound was concentrated under reduced pressure to give crystals, which were recrystallized from a mixture of benzene and n-hexane to give crystalline 2-oxo-5-phenoxybenzothiazoline (4.0 g).

reactant | bis(2-nitro-4-phenoxyphenyl) disulfide | 13.2 g | [N+](=O)([O-])C1=C(C=CC(=C1)OC1=CC=CC=C1)SSC1=C(C=C(C=C1)OC1=CC=CC=C1)[N+](=O)[O-] | C24H16N2O6S2
reactant | sodium monosulfide | [S-2].[Na+].[Na+]
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-oxo-5-phenoxybenzothiazoline | 4.0 g | O=C1SC2=C(N1)C=C(C=C2)OC2=CC=CC=C2 | C13H9NO2S
